### PR TITLE
[Merged by Bors] - feat port: Logic.Equiv.LocalEquiv

### PR DESCRIPTION
**Pull request by ChrisHughes24**
aba57d4d3dae35460225919dcd82fe91355162f9

### CODE REVIEW

**Comment by winstonyin** [comment]
Most of the proofs I've fixed initially failed because `simp` failed but `rw` worked using the traced rewrite lemmas (e.g. `trans_self_symm`). Haven't had a chance to get to the bottom of this.

`mfld_set_tac` is not working properly.

File: test/MfldSetTac.lean [hunk 1]
```diff
@@ -18,55 +18,56 @@ open Lean Meta Elab Tactic
 /-! ## Syntax of objects and lemmas needed for testing `MfldSetTac` -/
 section stub_lemmas
 
-@[mfld_simps] lemma Set.mem_set_of_eq {p : α → Prop} : (x ∈ {y : α | p y}) = p x := sorry
+-- Porting note: this is `Set.mem_setOf_eq` now
+-- @[mfld_simps] lemma Set.mem_set_of_eq {p : α → Prop} : (x ∈ {y : α | p y}) = p x := sorry
```
Comment (hrmacbeth) [inline test/MfldSetTac.lean:22]: These tests are not mathlib3 tests, instead I added them when the mathlib4 version was written to test it, because at the time `Data.Set.Basic` was not ported.  So you should just delete rather than commenting.

File: Mathlib/Logic/Equiv/LocalEquiv.lean [hunk 2]
```diff
@@ -39,3 +119,998 @@ elab (name := mfldSetTac) "mfld_set_tac" : tactic => withMainContext do
...
+#align local_equiv.pi LocalEquiv.pi
+
+end Pi
+
+end LocalEquiv
+
+namespace Set
+
+-- All arguments are explicit to avoid missing information in the pretty printer output
+/-- A bijection between two sets `s : set α` and `t : set β` provides a local equivalence
```
Comment (jcommelin) [inline Mathlib/Logic/Equiv/LocalEquiv.lean:1070]:
```suggestion
/-- A bijection between two sets `s : Set α` and `t : Set β` provides a local equivalence
```

File: Mathlib/Logic/Equiv/LocalEquiv.lean [hunk 3]
```diff
@@ -39,3 +119,998 @@ elab (name := mfldSetTac) "mfld_set_tac" : tactic => withMainContext do
...
+
+theorem forall_mem_target {p : β → Prop} : (∀ y ∈ e.target, p y) ↔ ∀ x ∈ e.source, p (e x) := by
+  rw [← image_source_eq_target, ball_image_iff]
+#align local_equiv.forall_mem_target LocalEquiv.forall_mem_target
+
+theorem exists_mem_target {p : β → Prop} : (∃ y ∈ e.target, p y) ↔ ∃ x ∈ e.source, p (e x) := by
+  rw [← image_source_eq_target, bex_image_iff]
+#align local_equiv.exists_mem_target LocalEquiv.exists_mem_target
+
+/-- We say that `t : set β` is an image of `s : set α` under a local equivalence if
```
Comment (jcommelin) [inline Mathlib/Logic/Equiv/LocalEquiv.lean:339]:
```suggestion
/-- We say that `t : Set β` is an image of `s : Set α` under a local equivalence if
```

**Comment by jcommelin** [comment]
bors merge
